************************************************************************
* auCdl Netlist:
* 
* Library Name:  std_cell
* Top Cell Name: INV
* View Name:     schematic
* Netlisted on:  Mar 24 01:50:27 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: std_cell
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT
*.PININFO IN:I OUT:O
MM0 OUT IN gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM1 OUT IN vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
.ENDS

